data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-COc1ccccc1_2-c1ccc(F)cc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(COc1ccccc1)(c1ccc(F)cc1)C=O","C(COc1ccccc1)(c1ccc(F)cc1)C=O"],"products_smiles": ["C(COc1ccccc1)(c1ccc(F)cc1)C(O)C(COc1ccccc1)(c1ccc(F)cc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(c1ccc(F)cc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(COc1ccccc1)(c1ccc(F)cc1)C([O-])C(COc1ccccc1)(c1ccc(F)cc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(COc1ccccc1)(c1ccc(F)cc1)C(O)C(COc1ccccc1)(c1ccc(F)cc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-071_1-C(C)(C)C_2-c1ccccc1_3-C(F)(F)F_4-CCCC(C)C_5-C_6-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_7-c1ccccc1","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(C(C)(C)C)(c1ccccc1)=C(C(F)(F)F)C(CCCC(C)C)(C)S(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","O(c1ccccc1)P(O(c1ccccc1))O(c1ccccc1)"],"products_smiles": ["OC(C(C)(C)C)(c1ccccc1)C(C(F)(F)F)=C(CCCC(C)C)(C)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)OC(C(C)(C)C)(c1ccccc1)C(C(F)(F)F)=C(CCCC(C)C)(C)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(C(C)(C)C)(c1ccccc1)C(C(F)(F)F)=C(CCCC(C)C)(C)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(C)C)(c1ccccc1)C(C(F)(F)F)=C(CCCC(C)C)(C)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
